US04138581
By interacting 13 g. of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride with 8.0 g. of 2,2-dimethylpentanoyl chloride in 30 ml. of trifluoroacetic acid on a steam bath for one hour and treating the resulting product with ammonium hydroxide there was obtained 3-hydroxy-4-(2,2-dimethylpentanoyloxy)phenyl tert-butylaminomethyl ketone. This product was converted to the acetate salt (10.5 g.) and this salt was converted to the corresponding methanesulfonate salt [8.3 g., m.p. 250° C.(dec.)(uncorr.)], by treatment with a slight excess of methanesulfonic acid. When this methanesulfonate (8.0 g.) was catalytically hydrogenated in the presence of palladium-on-charcoal catalyst, there was obtained 5.8 g. of 3-hydroxy-4-(2,2-dimethylpentanoyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol methanesulfonate as a white crystalline solid which melted at 128°-130° C.(uncorr.).

reactant | 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | 2,2-dimethylpentanoyl chloride | CC(C(=O)Cl)(CCC)C | C7H13ClO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-hydroxy-4-(2,2-dimethylpentanoyloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C(CCC)(C)C)=O)O | C19H29NO4
